US07410981B2
tert-Butyl 4-hydroxybutylcarbamate
To a mixture of 4-aminobutanol (3.57 g) and ethyl acetate (9 mL) was dropwise added a mixture of di-tert-butyl dicarbonate (8.73 g) and ethyl acetate (1 ml) under ice-cooling. After stirring at room temperature for 24 hrs., the mixture was concentrated under reduced pressure. The residue was dissolved in ethyl acetate (200 mL), and the mixture was washed with water (50 mL), 1N hydrochloric acid (40 mL), water (30 mL) and saturated brine (30 mL) and dried over anhydrous magnesium sulfate. Concentration under reduced pressure gave the title compound (7.54 g) as a colorless oil.

reactant | 4-aminobutanol | 3.57 g | NCCCCO | C4H11NO
reactant | di-tert-butyl dicarbonate | 8.73 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 9 mL | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-hydroxybutylcarbamate | 7.54 g | OCCCCNC(OC(C)(C)C)=O | C9H19NO3
